US04402960
At 0° a diazonium salt solution prepared from 2.58 g of 2,4-difluoroaniline, 1.58 g of sodium nitrite, and 10 ml of 6 N hydrochloric acid is added dropwise to a solution of 6.25 g of 4,5-bis(4-methoxyphenyl)-2-mercaptoimidazole in a mixture of 240 ml of dimethylformamide, 10 ml of 2 N sodium hydroxide solution, and 1.45 g of powdered copper. The solution becomes reddish brown under nitrogen evolution. The mixture is stirred for another 3 hours, the solution is concentrated under vacuum, and the residue is distributed between water and ethyl acetate. The organic solution is dried over sodium sulfate and concentrated to dryness under vacuum. The residue is subjected to column chromatography on 500 g of neutral aluminum oxide (activity stage II). Elution with acetone/hexane 2:3 yields 3.12 g of 4,5-bis(4-methoxyphenyl)-2-(2,4-difluorophenylthio)imidazole, having a melting point of 174°-176° after crystallization from hexane/ether and a melting point of 186°-188° after another crystallization from ethanol/ether.

reactant | 2,4-difluoroaniline | 2.58 g | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | sodium nitrite | 1.58 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 6 N, 10 ml | Cl | ClH
reactant | 4,5-bis(4-methoxyphenyl)-2-mercaptoimidazole | 6.25 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)S | C17H16N2O2S
reactant | sodium hydroxide | 2 N, 10 ml | [OH-].[Na+]
solvent | dimethylformamide | 240 ml | CN(C=O)C | C3H7NO
catalyst | copper | 1.45 g | [Cu] | Cu
product | 4,5-bis(4-methoxyphenyl)-2-(2,4-difluorophenylthio)imidazole | 3.12 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)SC1=C(C=C(C=C1)F)F | C23H18F2N2O2S
